Look Ahead Carry Adder


v1 vdd 0 dc 5 ac 0
rgnd gnd 0 1e-6

vpulse2 a0 gnd pulse(0 5 0ns 5ns 5ns 30ns 100ns)
vpulse3 a1 gnd pulse(0 5 50ns 5ns 5ns 30ns 100ns)
vpulse4 a2 gnd pulse(0 0 10ns 5ns 5ns 30ns 100ns)
vpulse5 a3 gnd pulse(0 5 20ns 5ns 5ns 60ns 100ns)
vpulse6 a4 gnd pulse(0 0 10ns 5ns 5ns 30ns 100ns)
vpulse7 a5 gnd pulse(0 5 50ns 5ns 5ns 30ns 100ns)
vpulse8 a6 gnd pulse(0 0 10ns 5ns 5ns 30ns 100ns)
vpulse9 a7 gnd pulse(0 5 50ns 5ns 5ns 30ns 100ns)

vpulse10 b0 gnd pulse(0 5 0ns 5ns 5ns 30ns 100ns)
vpulse11 b1 gnd pulse(0 0 10ns 5ns 5ns 30ns 100ns)
vpulse12 b2 gnd pulse(0 0 10ns 5ns 5ns 30ns 100ns)
vpulse13 b3 gnd pulse(0 0 10ns 5ns 5ns 30ns 100ns)
vpulse14 b4 gnd pulse(0 5 50ns 5ns 5ns 30ns 100ns)
vpulse15 b5 gnd pulse(0 5 50ns 5ns 5ns 30ns 100ns)
vpulse16 b6 gnd pulse(0 0 10ns 5ns 5ns 30ns 100ns)
vpulse17 b7 gnd pulse(0 5 50ns 5ns 5ns 30ns 100ns)



m144  28 a0 vdd vdd  ami06P w=1.5e-06 l=6e-07
m145  28 b0 vdd vdd  ami06P w=1.5e-06 l=6e-07
m147  30 a0 vdd vdd  ami06P w=1.5e-06 l=6e-07
m146  32 28 vdd vdd  ami06P w=1.5e-06 l=6e-07
m149  30 28 vdd vdd  ami06P w=1.5e-06 l=6e-07
m148  32 b0 vdd vdd  ami06P w=1.5e-06 l=6e-07
m150  34 30 vdd vdd  ami06P w=1.5e-06 l=6e-07
m151  34 32 vdd vdd  ami06P w=1.5e-06 l=6e-07
m152  36 34 vdd vdd  ami06P w=1.5e-06 l=6e-07
m153  36 gnd vdd vdd  ami06P w=1.5e-06 l=6e-07
m156  38 34 vdd vdd  ami06P w=1.5e-06 l=6e-07
m155  40 36 vdd vdd  ami06P w=1.5e-06 l=6e-07
m154  42 36 vdd vdd  ami06P w=1.5e-06 l=6e-07
m159  38 36 vdd vdd  ami06P w=1.5e-06 l=6e-07
m158  40 gnd vdd vdd  ami06P w=1.5e-06 l=6e-07
m157  42 28 vdd vdd  ami06P w=1.5e-06 l=6e-07
m160  s0 38 vdd vdd  ami06P w=1.5e-06 l=6e-07
m161  s0 40 vdd vdd  ami06P w=1.5e-06 l=6e-07
m162  45 a1 vdd vdd  ami06P w=1.5e-06 l=6e-07
m163  45 b1 vdd vdd  ami06P w=1.5e-06 l=6e-07
m165  47 a1 vdd vdd  ami06P w=1.5e-06 l=6e-07
m164  49 45 vdd vdd  ami06P w=1.5e-06 l=6e-07
m167  47 45 vdd vdd  ami06P w=1.5e-06 l=6e-07
m166  49 b1 vdd vdd  ami06P w=1.5e-06 l=6e-07
m168  51 47 vdd vdd  ami06P w=1.5e-06 l=6e-07
m169  51 49 vdd vdd  ami06P w=1.5e-06 l=6e-07
m170  53 51 vdd vdd  ami06P w=1.5e-06 l=6e-07
m171  53 42 vdd vdd  ami06P w=1.5e-06 l=6e-07
m172  55 51 vdd vdd  ami06P w=1.5e-06 l=6e-07
m174  57 53 vdd vdd  ami06P w=1.5e-06 l=6e-07
m173  59 53 vdd vdd  ami06P w=1.5e-06 l=6e-07
m177  55 53 vdd vdd  ami06P w=1.5e-06 l=6e-07
m176  57 42 vdd vdd  ami06P w=1.5e-06 l=6e-07
m175  59 45 vdd vdd  ami06P w=1.5e-06 l=6e-07
m178  s1 55 vdd vdd  ami06P w=1.5e-06 l=6e-07
m179  s1 57 vdd vdd  ami06P w=1.5e-06 l=6e-07
m180  62 a2 vdd vdd  ami06P w=1.5e-06 l=6e-07
m181  62 b2 vdd vdd  ami06P w=1.5e-06 l=6e-07
m183  64 a2 vdd vdd  ami06P w=1.5e-06 l=6e-07
m182  66 62 vdd vdd  ami06P w=1.5e-06 l=6e-07
m185  64 62 vdd vdd  ami06P w=1.5e-06 l=6e-07
m184  66 b2 vdd vdd  ami06P w=1.5e-06 l=6e-07
m186  68 64 vdd vdd  ami06P w=1.5e-06 l=6e-07
m187  68 66 vdd vdd  ami06P w=1.5e-06 l=6e-07
m188  70 68 vdd vdd  ami06P w=1.5e-06 l=6e-07
m189  70 59 vdd vdd  ami06P w=1.5e-06 l=6e-07
m192  72 68 vdd vdd  ami06P w=1.5e-06 l=6e-07
m191  74 70 vdd vdd  ami06P w=1.5e-06 l=6e-07
m190  76 70 vdd vdd  ami06P w=1.5e-06 l=6e-07
m194  72 70 vdd vdd  ami06P w=1.5e-06 l=6e-07
m193  74 59 vdd vdd  ami06P w=1.5e-06 l=6e-07
m195  76 62 vdd vdd  ami06P w=1.5e-06 l=6e-07
m196  s2 72 vdd vdd  ami06P w=1.5e-06 l=6e-07
m197  s2 74 vdd vdd  ami06P w=1.5e-06 l=6e-07
m198  79 a3 vdd vdd  ami06P w=1.5e-06 l=6e-07
m199  79 b3 vdd vdd  ami06P w=1.5e-06 l=6e-07
m201  81 a3 vdd vdd  ami06P w=1.5e-06 l=6e-07
m200  83 79 vdd vdd  ami06P w=1.5e-06 l=6e-07
m203  81 79 vdd vdd  ami06P w=1.5e-06 l=6e-07
m202  83 b3 vdd vdd  ami06P w=1.5e-06 l=6e-07
m204  85 81 vdd vdd  ami06P w=1.5e-06 l=6e-07
m205  85 83 vdd vdd  ami06P w=1.5e-06 l=6e-07
m206  87 85 vdd vdd  ami06P w=1.5e-06 l=6e-07
m207  87 76 vdd vdd  ami06P w=1.5e-06 l=6e-07
m210  89 85 vdd vdd  ami06P w=1.5e-06 l=6e-07
m209  91 87 vdd vdd  ami06P w=1.5e-06 l=6e-07
m208  93 87 vdd vdd  ami06P w=1.5e-06 l=6e-07
m213  89 87 vdd vdd  ami06P w=1.5e-06 l=6e-07
m212  91 76 vdd vdd  ami06P w=1.5e-06 l=6e-07
m211  93 79 vdd vdd  ami06P w=1.5e-06 l=6e-07
m214  s3 89 vdd vdd  ami06P w=1.5e-06 l=6e-07
m215  s3 91 vdd vdd  ami06P w=1.5e-06 l=6e-07
m216  96 a4 vdd vdd  ami06P w=1.5e-06 l=6e-07
m217  96 b4 vdd vdd  ami06P w=1.5e-06 l=6e-07
m219  98 a4 vdd vdd  ami06P w=1.5e-06 l=6e-07
m218  100 96 vdd vdd  ami06P w=1.5e-06 l=6e-07
m221  98 96 vdd vdd  ami06P w=1.5e-06 l=6e-07
m220  100 b4 vdd vdd  ami06P w=1.5e-06 l=6e-07
m222  102 98 vdd vdd  ami06P w=1.5e-06 l=6e-07
m223  102 100 vdd vdd  ami06P w=1.5e-06 l=6e-07
m224  104 102 vdd vdd  ami06P w=1.5e-06 l=6e-07
m225  104 93 vdd vdd  ami06P w=1.5e-06 l=6e-07
m227  106 102 vdd vdd  ami06P w=1.5e-06 l=6e-07
m226  108 104 vdd vdd  ami06P w=1.5e-06 l=6e-07
m228  110 104 vdd vdd  ami06P w=1.5e-06 l=6e-07
m231  106 104 vdd vdd  ami06P w=1.5e-06 l=6e-07
m230  108 93 vdd vdd  ami06P w=1.5e-06 l=6e-07
m229  110 96 vdd vdd  ami06P w=1.5e-06 l=6e-07
m232  s4 106 vdd vdd  ami06P w=1.5e-06 l=6e-07
m233  s4 108 vdd vdd  ami06P w=1.5e-06 l=6e-07
m234  113 a5 vdd vdd  ami06P w=1.5e-06 l=6e-07
m235  113 b5 vdd vdd  ami06P w=1.5e-06 l=6e-07
m237  115 a5 vdd vdd  ami06P w=1.5e-06 l=6e-07
m236  117 113 vdd vdd  ami06P w=1.5e-06 l=6e-07
m238  115 113 vdd vdd  ami06P w=1.5e-06 l=6e-07
m239  117 b5 vdd vdd  ami06P w=1.5e-06 l=6e-07
m240  119 115 vdd vdd  ami06P w=1.5e-06 l=6e-07
m241  119 117 vdd vdd  ami06P w=1.5e-06 l=6e-07
m242  121 119 vdd vdd  ami06P w=1.5e-06 l=6e-07
m243  121 110 vdd vdd  ami06P w=1.5e-06 l=6e-07
m246  123 119 vdd vdd  ami06P w=1.5e-06 l=6e-07
m245  125 121 vdd vdd  ami06P w=1.5e-06 l=6e-07
m244  127 121 vdd vdd  ami06P w=1.5e-06 l=6e-07
m249  123 121 vdd vdd  ami06P w=1.5e-06 l=6e-07
m248  125 110 vdd vdd  ami06P w=1.5e-06 l=6e-07
m247  127 113 vdd vdd  ami06P w=1.5e-06 l=6e-07
m250  s5 123 vdd vdd  ami06P w=1.5e-06 l=6e-07
m251  s5 125 vdd vdd  ami06P w=1.5e-06 l=6e-07
m252  130 a6 vdd vdd  ami06P w=1.5e-06 l=6e-07
m253  130 b6 vdd vdd  ami06P w=1.5e-06 l=6e-07
m255  132 a6 vdd vdd  ami06P w=1.5e-06 l=6e-07
m254  134 130 vdd vdd  ami06P w=1.5e-06 l=6e-07
m257  132 130 vdd vdd  ami06P w=1.5e-06 l=6e-07
m256  134 b6 vdd vdd  ami06P w=1.5e-06 l=6e-07
m258  136 132 vdd vdd  ami06P w=1.5e-06 l=6e-07
m259  136 134 vdd vdd  ami06P w=1.5e-06 l=6e-07
m260  138 136 vdd vdd  ami06P w=1.5e-06 l=6e-07
m261  138 127 vdd vdd  ami06P w=1.5e-06 l=6e-07
m264  140 136 vdd vdd  ami06P w=1.5e-06 l=6e-07
m263  142 138 vdd vdd  ami06P w=1.5e-06 l=6e-07
m262  144 138 vdd vdd  ami06P w=1.5e-06 l=6e-07
m267  140 138 vdd vdd  ami06P w=1.5e-06 l=6e-07
m266  142 127 vdd vdd  ami06P w=1.5e-06 l=6e-07
m265  144 130 vdd vdd  ami06P w=1.5e-06 l=6e-07
m268  s6 140 vdd vdd  ami06P w=1.5e-06 l=6e-07
m269  s6 142 vdd vdd  ami06P w=1.5e-06 l=6e-07
m270  147 a7 vdd vdd  ami06P w=1.5e-06 l=6e-07
m271  147 b7 vdd vdd  ami06P w=1.5e-06 l=6e-07
m273  149 a7 vdd vdd  ami06P w=1.5e-06 l=6e-07
m272  151 147 vdd vdd  ami06P w=1.5e-06 l=6e-07
m275  149 147 vdd vdd  ami06P w=1.5e-06 l=6e-07
m274  151 b7 vdd vdd  ami06P w=1.5e-06 l=6e-07
m276  153 149 vdd vdd  ami06P w=1.5e-06 l=6e-07
m277  153 151 vdd vdd  ami06P w=1.5e-06 l=6e-07
m278  155 153 vdd vdd  ami06P w=1.5e-06 l=6e-07
m279  155 144 vdd vdd  ami06P w=1.5e-06 l=6e-07
m282  157 153 vdd vdd  ami06P w=1.5e-06 l=6e-07
m281  159 155 vdd vdd  ami06P w=1.5e-06 l=6e-07
m280  cout 155 vdd vdd  ami06P w=1.5e-06 l=6e-07
m285  157 155 vdd vdd  ami06P w=1.5e-06 l=6e-07
m284  159 144 vdd vdd  ami06P w=1.5e-06 l=6e-07
m283  cout 147 vdd vdd  ami06P w=1.5e-06 l=6e-07
m286  s7 157 vdd vdd  ami06P w=1.5e-06 l=6e-07
m287  s7 159 vdd vdd  ami06P w=1.5e-06 l=6e-07
m1  29 a0 28 gnd  ami06N w=1.5e-06 l=6e-07
m0  gnd b0 29 gnd  ami06N w=1.5e-06 l=6e-07
m5  31 a0 30 gnd  ami06N w=1.5e-06 l=6e-07
m4  gnd 28 31 gnd  ami06N w=1.5e-06 l=6e-07
m3  33 28 32 gnd  ami06N w=1.5e-06 l=6e-07
m2  gnd b0 33 gnd  ami06N w=1.5e-06 l=6e-07
m7  35 30 34 gnd  ami06N w=1.5e-06 l=6e-07
m6  gnd 32 35 gnd  ami06N w=1.5e-06 l=6e-07
m9  37 34 36 gnd  ami06N w=1.5e-06 l=6e-07
m8  gnd gnd 37 gnd  ami06N w=1.5e-06 l=6e-07
m15  39 34 38 gnd  ami06N w=1.5e-06 l=6e-07
m14  gnd 36 39 gnd  ami06N w=1.5e-06 l=6e-07
m13  41 36 40 gnd  ami06N w=1.5e-06 l=6e-07
m12  gnd gnd 41 gnd  ami06N w=1.5e-06 l=6e-07
m11  43 36 42 gnd  ami06N w=1.5e-06 l=6e-07
m10  gnd 28 43 gnd  ami06N w=1.5e-06 l=6e-07
m16  44 38 s0 gnd  ami06N w=1.5e-06 l=6e-07
m17  gnd 40 44 gnd  ami06N w=1.5e-06 l=6e-07
m19  46 a1 45 gnd  ami06N w=1.5e-06 l=6e-07
m18  gnd b1 46 gnd  ami06N w=1.5e-06 l=6e-07
m23  48 a1 47 gnd  ami06N w=1.5e-06 l=6e-07
m22  gnd 45 48 gnd  ami06N w=1.5e-06 l=6e-07
m21  50 45 49 gnd  ami06N w=1.5e-06 l=6e-07
m20  gnd b1 50 gnd  ami06N w=1.5e-06 l=6e-07
m25  52 47 51 gnd  ami06N w=1.5e-06 l=6e-07
m24  gnd 49 52 gnd  ami06N w=1.5e-06 l=6e-07
m27  54 51 53 gnd  ami06N w=1.5e-06 l=6e-07
m26  gnd 42 54 gnd  ami06N w=1.5e-06 l=6e-07
m33  56 51 55 gnd  ami06N w=1.5e-06 l=6e-07
m32  gnd 53 56 gnd  ami06N w=1.5e-06 l=6e-07
m31  58 53 57 gnd  ami06N w=1.5e-06 l=6e-07
m30  gnd 42 58 gnd  ami06N w=1.5e-06 l=6e-07
m29  60 53 59 gnd  ami06N w=1.5e-06 l=6e-07
m28  gnd 45 60 gnd  ami06N w=1.5e-06 l=6e-07
m35  61 55 s1 gnd  ami06N w=1.5e-06 l=6e-07
m34  gnd 57 61 gnd  ami06N w=1.5e-06 l=6e-07
m37  63 a2 62 gnd  ami06N w=1.5e-06 l=6e-07
m36  gnd b2 63 gnd  ami06N w=1.5e-06 l=6e-07
m38  65 a2 64 gnd  ami06N w=1.5e-06 l=6e-07
m41  gnd 62 65 gnd  ami06N w=1.5e-06 l=6e-07
m40  67 62 66 gnd  ami06N w=1.5e-06 l=6e-07
m39  gnd b2 67 gnd  ami06N w=1.5e-06 l=6e-07
m43  69 64 68 gnd  ami06N w=1.5e-06 l=6e-07
m42  gnd 66 69 gnd  ami06N w=1.5e-06 l=6e-07
m45  71 68 70 gnd  ami06N w=1.5e-06 l=6e-07
m44  gnd 59 71 gnd  ami06N w=1.5e-06 l=6e-07
m49  73 68 72 gnd  ami06N w=1.5e-06 l=6e-07
m48  gnd 70 73 gnd  ami06N w=1.5e-06 l=6e-07
m47  75 70 74 gnd  ami06N w=1.5e-06 l=6e-07
m46  gnd 59 75 gnd  ami06N w=1.5e-06 l=6e-07
m51  77 70 76 gnd  ami06N w=1.5e-06 l=6e-07
m50  gnd 62 77 gnd  ami06N w=1.5e-06 l=6e-07
m53  78 72 s2 gnd  ami06N w=1.5e-06 l=6e-07
m52  gnd 74 78 gnd  ami06N w=1.5e-06 l=6e-07
m55  80 a3 79 gnd  ami06N w=1.5e-06 l=6e-07
m54  gnd b3 80 gnd  ami06N w=1.5e-06 l=6e-07
m59  82 a3 81 gnd  ami06N w=1.5e-06 l=6e-07
m58  gnd 79 82 gnd  ami06N w=1.5e-06 l=6e-07
m57  84 79 83 gnd  ami06N w=1.5e-06 l=6e-07
m56  gnd b3 84 gnd  ami06N w=1.5e-06 l=6e-07
m60  86 81 85 gnd  ami06N w=1.5e-06 l=6e-07
m61  gnd 83 86 gnd  ami06N w=1.5e-06 l=6e-07
m63  88 85 87 gnd  ami06N w=1.5e-06 l=6e-07
m62  gnd 76 88 gnd  ami06N w=1.5e-06 l=6e-07
m69  90 85 89 gnd  ami06N w=1.5e-06 l=6e-07
m68  gnd 87 90 gnd  ami06N w=1.5e-06 l=6e-07
m67  92 87 91 gnd  ami06N w=1.5e-06 l=6e-07
m66  gnd 76 92 gnd  ami06N w=1.5e-06 l=6e-07
m65  94 87 93 gnd  ami06N w=1.5e-06 l=6e-07
m64  gnd 79 94 gnd  ami06N w=1.5e-06 l=6e-07
m71  95 89 s3 gnd  ami06N w=1.5e-06 l=6e-07
m70  gnd 91 95 gnd  ami06N w=1.5e-06 l=6e-07
m73  97 a4 96 gnd  ami06N w=1.5e-06 l=6e-07
m72  gnd b4 97 gnd  ami06N w=1.5e-06 l=6e-07
m77  99 a4 98 gnd  ami06N w=1.5e-06 l=6e-07
m76  gnd 96 99 gnd  ami06N w=1.5e-06 l=6e-07
m75  101 96 100 gnd  ami06N w=1.5e-06 l=6e-07
m74  gnd b4 101 gnd  ami06N w=1.5e-06 l=6e-07
m79  103 98 102 gnd  ami06N w=1.5e-06 l=6e-07
m78  gnd 100 103 gnd  ami06N w=1.5e-06 l=6e-07
m81  105 102 104 gnd  ami06N w=1.5e-06 l=6e-07
m80  gnd 93 105 gnd  ami06N w=1.5e-06 l=6e-07
m82  107 102 106 gnd  ami06N w=1.5e-06 l=6e-07
m87  gnd 104 107 gnd  ami06N w=1.5e-06 l=6e-07
m86  109 104 108 gnd  ami06N w=1.5e-06 l=6e-07
m85  gnd 93 109 gnd  ami06N w=1.5e-06 l=6e-07
m84  111 104 110 gnd  ami06N w=1.5e-06 l=6e-07
m83  gnd 96 111 gnd  ami06N w=1.5e-06 l=6e-07
m89  112 106 s4 gnd  ami06N w=1.5e-06 l=6e-07
m88  gnd 108 112 gnd  ami06N w=1.5e-06 l=6e-07
m91  114 a5 113 gnd  ami06N w=1.5e-06 l=6e-07
m90  gnd b5 114 gnd  ami06N w=1.5e-06 l=6e-07
m93  116 a5 115 gnd  ami06N w=1.5e-06 l=6e-07
m92  gnd 113 116 gnd  ami06N w=1.5e-06 l=6e-07
m95  118 113 117 gnd  ami06N w=1.5e-06 l=6e-07
m94  gnd b5 118 gnd  ami06N w=1.5e-06 l=6e-07
m97  120 115 119 gnd  ami06N w=1.5e-06 l=6e-07
m96  gnd 117 120 gnd  ami06N w=1.5e-06 l=6e-07
m99  122 119 121 gnd  ami06N w=1.5e-06 l=6e-07
m98  gnd 110 122 gnd  ami06N w=1.5e-06 l=6e-07
m104  124 119 123 gnd  ami06N w=1.5e-06 l=6e-07
m103  gnd 121 124 gnd  ami06N w=1.5e-06 l=6e-07
m102  126 121 125 gnd  ami06N w=1.5e-06 l=6e-07
m101  gnd 110 126 gnd  ami06N w=1.5e-06 l=6e-07
m100  128 121 127 gnd  ami06N w=1.5e-06 l=6e-07
m105  gnd 113 128 gnd  ami06N w=1.5e-06 l=6e-07
m107  129 123 s5 gnd  ami06N w=1.5e-06 l=6e-07
m106  gnd 125 129 gnd  ami06N w=1.5e-06 l=6e-07
m109  131 a6 130 gnd  ami06N w=1.5e-06 l=6e-07
m108  gnd b6 131 gnd  ami06N w=1.5e-06 l=6e-07
m113  133 a6 132 gnd  ami06N w=1.5e-06 l=6e-07
m112  gnd 130 133 gnd  ami06N w=1.5e-06 l=6e-07
m111  135 130 134 gnd  ami06N w=1.5e-06 l=6e-07
m110  gnd b6 135 gnd  ami06N w=1.5e-06 l=6e-07
m115  137 132 136 gnd  ami06N w=1.5e-06 l=6e-07
m114  gnd 134 137 gnd  ami06N w=1.5e-06 l=6e-07
m117  139 136 138 gnd  ami06N w=1.5e-06 l=6e-07
m116  gnd 127 139 gnd  ami06N w=1.5e-06 l=6e-07
m123  141 136 140 gnd  ami06N w=1.5e-06 l=6e-07
m122  gnd 138 141 gnd  ami06N w=1.5e-06 l=6e-07
m121  143 138 142 gnd  ami06N w=1.5e-06 l=6e-07
m120  gnd 127 143 gnd  ami06N w=1.5e-06 l=6e-07
m119  145 138 144 gnd  ami06N w=1.5e-06 l=6e-07
m118  gnd 130 145 gnd  ami06N w=1.5e-06 l=6e-07
m125  146 140 s6 gnd  ami06N w=1.5e-06 l=6e-07
m124  gnd 142 146 gnd  ami06N w=1.5e-06 l=6e-07
m126  148 a7 147 gnd  ami06N w=1.5e-06 l=6e-07
m127  gnd b7 148 gnd  ami06N w=1.5e-06 l=6e-07
m131  150 a7 149 gnd  ami06N w=1.5e-06 l=6e-07
m130  gnd 147 150 gnd  ami06N w=1.5e-06 l=6e-07
m129  152 147 151 gnd  ami06N w=1.5e-06 l=6e-07
m128  gnd b7 152 gnd  ami06N w=1.5e-06 l=6e-07
m133  154 149 153 gnd  ami06N w=1.5e-06 l=6e-07
m132  gnd 151 154 gnd  ami06N w=1.5e-06 l=6e-07
m135  156 153 155 gnd  ami06N w=1.5e-06 l=6e-07
m134  gnd 144 156 gnd  ami06N w=1.5e-06 l=6e-07
m137  158 153 157 gnd  ami06N w=1.5e-06 l=6e-07
m136  gnd 155 158 gnd  ami06N w=1.5e-06 l=6e-07
m141  160 155 159 gnd  ami06N w=1.5e-06 l=6e-07
m140  gnd 144 160 gnd  ami06N w=1.5e-06 l=6e-07
m139  161 155 cout gnd  ami06N w=1.5e-06 l=6e-07
m138  gnd 147 161 gnd  ami06N w=1.5e-06 l=6e-07
m143  162 157 s7 gnd  ami06N w=1.5e-06 l=6e-07
m142  gnd 159 162 gnd  ami06N w=1.5e-06 l=6e-07


.tran 1ns 100n
.model ami06N nmos(vto=0.6 kp=110e-6 cgdo=1e-12 cgso=1e-12 cgbo=1e-12)
.model ami06P pmos(vto=-1.0 kp=50e-6 cgdo=1e-12 cgso=1e-12 cgbo=1e-12)
.print dc v(s0)
.print dc v(s1)
.print dc v(s2)
.print dc v(s3)
.print dc v(s4)
.print dc v(s5)
.print dc v(s6)
.print dc v(s7)
.print dc v(cout)
.print dc v(a0)
.print dc v(a1)
.print dc v(a2)
.print dc v(a3)
.print dc v(a4)
.print dc v(a5)
.print dc v(a6)
.print dc v(a7)
.print dc v(b0)
.print dc v(b1)
.print dc v(b2)
.print dc v(b3)
.print dc v(b4)
.print dc v(b5)
.print dc v(b6)
.print dc v(b7)
.end

